Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ cardiac catherization
.

___
1. Coronary artery bypass graft x3, left internal mammary
    artery to left anterior descending artery, and saphenous
    vein graft to obtuse marginal and posterior left
    ventricular branch.
2. Endoscopic harvesting of the long saphenous vein.
3. Aortic valve replacement with a 27 mm ___
    tissue valve.

 
History of Present Illness:
Mr. ___ is a ___ male with hx of CLL, HTN, and diabetes 
mellitus who is presenting with substernal chest pain. 

The patient was evaluated for routine follow-up for his 
hypertension by Dr. ___ at ___ Cardiology on ___. He 
was noted to have low blood pressure at 100/60 (baseline SBP 
130-140s). He held evening dose of labetolol and then reports 
developing substernal chest pain at around 10pm. ___ in 
severity described as dull pressure with radiation to both 
shoulders and arm. Reports nausea/vomiting x 1 with nonbloody, 
nonbilious emesis. Also reports having intermittent shortness of 
breath.  This prompted him to eventually call EMS. He was given 
nitro spray and his chest pain resolved in the ambulance.

In the ED initial vitals were: 97.6 90 177/96 18 94% RA 
EKG: Sinus tachycardia 94bpm, significant LVH with 2mm STE in 
V1, V2; STD in V4-V6
Labs/studies notable for: WBC 20.8 (baseline); Trop 
0.01->0.14->0.66; Na 141, K 3.4, BUN 18, Cre 0.6, lactate 1.8
Patient was given: labetolol 400mg po x 1, labetolol 10mg IV x 2 
for hypertension in the ED up to 194/113, also given home 
furosemide 20mg po x 1, metformin 500mg po x 1, riseperidone 
1.25mg po x 1, buspirone x 1
Vitals on transfer: 98.3 79 150/78 24 99% Nasal Cannula 

On the floor the patient reports mild chest pain on transfer 
from the stretcher to the bed. Described as a pressure and 
heaviness in his left chest. Denies radiation. Currently 
resolved. Reports dyspnea on exertion, although denies at rest. 
No light-headedness or dizziness. Has baseline photophobia since 
his strokes. 

Of note the patient had recent oral surgery and was started on 
amoxicillin for 10 days on ___. 

The patient also has a prior history of hemorrhagic stroke. Was 
told in the past never to take blood thinners. 

ROS: On review of systems, denies any cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.
 
Past Medical History:
#Hypertension - Diagnosed when the patient was in ___
#Type 2 diabetes mellitus
#Hyperlipidemia
#Significant for hemorrhagic CVA ___. The patient
states that he also had a second hemorrhagic stroke, but he is
unclear on the exact date.
#Depressive disorder.
#History of psychosis with paranoia, ___.
#Photophobia 
#Chronic lymphocytic leukemia. 
#Atypical chest pain. 
#History of suicide attempt while in college.
#Anxiety
 
Social History:
___
Family History:
Mother died in her ___ of an unknown cancer. Father died at the 
age of ___ secondary to heart problem.  Sister had spine surgery. 
 Two brothers with mental problems and heart problem.  A 
daughter with lupus.
 
Physical Exam:
Admission Exam
VS: 98.6F 118/66 70 18 93%RA; Weight 79.8kg
GENERAL: Appears comfortable in NAD; slow to respond to 
questions; wearing dark glasses in bed for his photophobia; flat 
affect
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. 
NECK: Supple with JVP of 10 cm.
CARDIAC: S1S2 RRR; II/VI systolic murmur with radiation to the 
carotids heard predominantly over the RUSB; no gallops
LUNGS: CTAB; intermittently tachypneic although no evidence of 
increased WOB; appears comfortable
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.

 
Pertinent Results:
Labs
-----------------
___ 01:10AM BLOOD WBC-20.8* RBC-4.81 Hgb-14.2 Hct-43.8 
MCV-91 MCH-29.5 MCHC-32.4 RDW-14.3 RDWSD-47.8* Plt ___
___ 01:10AM BLOOD Glucose-147* UreaN-18 Creat-0.6 Na-141 
K-3.4 Cl-103 HCO3-22 AnGap-19

___ 06:40AM BLOOD cTropnT-0.14*
___ 04:50PM BLOOD cTropnT-0.66*
___ 12:56AM BLOOD CK-MB-39* cTropnT-1.21*
___ 06:00AM BLOOD CK-MB-27* cTropnT-1.17*

Studies
-------------------
___ TTE
The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the basal inferoseptal and 
inferior walls. There is mild hypokinesis of the remaining 
segments (LVEF = 45-50 %). Doppler parameters are indeterminate 
for left ventricular diastolic function. The number of aortic 
valve leaflets cannot be determined. The aortic valve leaflets 
are moderately thickened. The degree of aortic valve stenosis 
could not be quantified. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is a very small pericardial 
effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional/global dysfunction c/w CAD. Aortic stenosis 
(unable to be quantified) and mild aortic regurgitation. Mild 
mitral regurgitation.  

Cardiac Cath ___
Coronary Anatomy
Dominance: Right
The LMCA had distal 80% into origin Cx which has 90% stenosis 
with origin OM 60% and 70% stenosis in the mid protion of the 
vessel. The origin LAD has 70% stenosis and the mid portion has 
90% stenosis followed by and aneurysmal segment at the diagonal. 
The diagonal had mid vessel 40% stenosis.
The RCA was moderately calcified with proximal 30% stenosis and 
mid vessel 80% sgenosis and distal 80% before the bifurcation 
with origin PL 60% stenosis and distal 60% un a small upper 
pole.

Impressions:
1. Severe left main and three vessel disease.
.

TEE ___
Conclusions   
PRE BYPASS The left atrium is dilated. No mass/thrombus is seen 
in the left atrium or left atrial appendage. Mild spontaneous 
echo contrast is present in the left atrial appendage. The left 
atrial appendage emptying velocity is depressed (<0.2m/s). No 
atrial septal defect is seen by 2D or color Doppler. There is 
moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is moderately depressed (LVEF= 40 %). The right 
ventricle displays normal free wall contractility. There are 
simple atheroma in the ascending aorta. There are simple 
atheroma in the aortic arch. There are simple atheroma in the 
descending thoracic aorta. There are three aortic valve 
leaflets. The aortic valve leaflets are severely thickened and 
calcified. There is severe aortic valve stenosis (valve area = 
1.0cm2). Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are moderately thickened. There is a fibrinous 
mass on the tip of the anterior mitral valve leaflet. Mild (1+) 
mitral regurgitation is seen. There is a trivial/physiologic 
pericardial effusion. Dr. ___ was notified in person 
of the results in the operating room at the time of the study.

 POST BYPASS The patient is AV paced and is receiving 
epinephrine by IV infusion.
 1. Normal bi-ventricular systolic function
 2. There is a tri-leaflet bio-prosthesis in the aortic 
position. Well seated and stable with good leaflet excursion. 
There is no aortic regurgitation.
 3. Due to inability to align Doppler beam the post-CPB 
gradients could not be obtained. However there is adequate 
leqflet opening and no stenosis.
 4. Intact aorta and no other change    
    
.

___ 07:00AM BLOOD WBC-19.7* RBC-2.66* Hgb-7.8* Hct-24.8* 
MCV-93 MCH-29.3 MCHC-31.5* RDW-14.6 RDWSD-49.3* Plt ___
___ 06:05AM BLOOD WBC-23.4* RBC-3.33* Hgb-9.7* Hct-30.6* 
MCV-92 MCH-29.1 MCHC-31.7* RDW-14.4 RDWSD-48.2* Plt ___
___ 07:43AM BLOOD ___
___ 07:00AM BLOOD Glucose-127* UreaN-22* Creat-0.8 Na-139 
K-3.8 Cl-105 HCO3-27 AnGap-11
___ 07:43AM BLOOD Glucose-104* UreaN-31* Creat-0.7 Na-141 
K-3.7 Cl-106 HCO3-27 AnGap-12
 
Brief Hospital Course:
Mr. ___ is a ___ male with hx of CLL, HTN, and diabetes 
mellitus, hemorrhagic CVA who is presenting with substernal 
chest pain found to have ECG changes and troponin up to 1.21 
concerning for NSTEMI s/p cath with diffuse 3 vessel disease now 
awaiting cardiac surgery

# CORONARIES: diffuse 3 vessel disease; LMCA 80% sentosis into 
Cx which has 90% and 70% in mid portion of vessel. RCA 
mid-vessel 80% stenosis. 
# PUMP: Mild symmetric left ventricular hypertrophy with mild 
regional/global dysfunction c/w CAD. Aortic stenosis (unable to 
be quantified) LVEF 45-50%
# RHYTHM: NSR 

#)NSTEMI: Patient with multiple risk factors including diabetes 
mellitus and hypertension now presenting with substernal chest 
pain found to have STD in V4-V6 concerning for lateral NSTEMI. 
Troponins peaked at 1.21. Currently chest pain free. now s/p 
cath showing difufuse 3 vessel disease, no intervention 
performed. Patient continued on aspirin 81mg po daily, 
olmesartan 40mg po daily, rosuvastatin 40mg qhs. Given diffuse 
vessel disease patient was evaluated by cardiac surgery and 
deemed an appropriate candidate.

#) Hypertension: Hypertensive in the ED up to 190/110s. On 
amlodipine, furosemide, olmesartan and home labetolol regimen. 
Home amlodipine increased from 5mg to 10mg po daily, and 
continued home furosemide 20mg po daily, labetolol 400mg q8am, 
600mg q5pm, 600mg q12am, home olmesartan 40mg po daily.

#) Diabetes Mellitus: At home on metformin 500mg po daily. Held 
metformin while inpatient and controlled blood sugars with ISS.

#) Hx of hemorrhagic stroke: Per patient report the patient had 
two hemorrhagic strokes with the first in ___, and the second 
after that although unclear on time course. Given his risk of 
bleed, Neurology consulted in regards to giving heparin in the 
setting of NSTEMI. Given location of prior bleed most consistent 
with hypertensive bleed. MRI/MRA with encephalomalacia with 
chronic appearing blood products. Evaluated by neurology and 
given no evidence of re-bleeding in the
past ___ years, it would be reasonable to use a heparin gtt for 
systemic anticoagulation as it would provide significant cardiac 
benefit. 

#) Recent oral surgery:  completed 10 day course of Amoxicillin 
500 mg PO Q8H (D1 ___

#) Anxiety/depression: Continued on home risperidone, buspar, 
oxazepam.
#) CLL: admitted with leukocytosis to 20. Appears to be 
baseline. 
#) Constipation: Continue home docusate and senna

















#ERROR!
CARDIAC SURGERY COURSE:

The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 3 and AVR (tissue) with Dr. ___. 
 Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
 POD 1 found the patient extubated and breathing comfortably.  
He required restraints for agitation on POD 1.  He was treated 
with Amiodarone for brief AFib.  AFib did recur- however, given 
his history of head bleed, it was decided to not start Coumadin. 
 The patient was neurologically intact and hemodynamically 
stable.  Beta blocker was initiated and the patient was gently 
diuresed toward the preoperative weight.  Free air was noted 
under diaphragm on CXR.  ACS consulted and believed 
pneumoperitoneum to be a result of chest tubes or surgery- no 
compromise to bowel. Abdominal exam remained benign. Diet was 
advanced as tolerated.  
The patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the physical 
therapy service for assistance with strength and mobility. 
Leukocytosis developed and he was treated for UTI.  
Psychiatry was consulted and recommended adjustments in 
medication. 
 By the time of discharge on POD 7 the patient was 
deconditioned, the wound was healing and pain was controlled 
with oral analgesics.  He is oriented x ___ffect and 
minimal verbal communication. 
The patient was discharged to ___ in ___ in good 
condition with appropriate follow up instructions.

Expected length of stay at rehab is less than 30 days. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Benicar (olmesartan) 40 mg oral DAILY 
3. Furosemide 20 mg PO DAILY 
4. Labetalol 400 mg PO Q8AM 
5. Labetalol 600 mg PO Q5PM; Q12AM 
6. BusPIRone 10 mg PO TID 
7. Docusate Sodium 100 mg PO BID 
8. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
9. Oxazepam 15 mg PO TID 
10. Potassium Chloride 10 mEq PO DAILY 
11. RISperidone 1.25 mg PO BID 
12. Senna 17.2 mg PO QHS 
13. Ascorbic Acid ___ mg PO BID 
14. Vitamin D 1000 UNIT PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Amoxicillin 500 mg PO Q8H 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Ascorbic Acid ___ mg PO BID 
3. BusPIRone 10 mg PO TID 
RX *buspirone 10 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
5. Furosemide 40 mg PO DAILY 
6. Potassium Chloride 20 mEq PO BID 
7. RISperidone 1.25 mg PO BID 
RX *risperidone 1 mg 1.25 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*0
8. RisperiDONE 0.5 mg PO BID:PRN agitation 
RX *risperidone 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0
9. Vitamin D 1000 UNIT PO DAILY 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 
11. Aspirin EC 81 mg PO DAILY 
12. Clopidogrel 75 mg PO DAILY 
13. Tamsulosin 0.4 mg PO QHS 
14. TraMADol 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*40 Tablet Refills:*0
15. Polyethylene Glycol 17 g PO DAILY 
16. Rosuvastatin Calcium 40 mg PO QPM 
17. Ranitidine 150 mg PO BID 
18. Metoprolol Tartrate 50 mg PO TID 
19. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
20. Multivitamins 1 TAB PO DAILY 
21. Senna 17.2 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Aortic Stenosis
- Hemorrhagic CVA ___. He states that he also had a 
second
hemorrhagic stroke ___ years ago.  
- Hypertension  
- Type 2 diabetes mellitus  
- Depressive disorder
- Anxiety  
- History of psychosis with paranoia, ___  
- Photophobia  
- Chronic lymphocytic leukemia 
- Atypical chest pain 
- History of suicide attempt while in college
Past Surgical History:
- Right inguinal repair with mesh
- Left Hip replacement 

 
Discharge Condition:
 oriented x 1, non-focal, flat affect, minimally communicative
 Deconditioned
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

Edema- trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___